US04503243
2,4,8,10-Tetra-t-butyl-6,6-dimethyl-dibenzo[d,f][1,3,2]dioxasilepin
Utilizing procedure of Example 1, this compound is prepared from 25.8 grams (0.20 mole) dichlorodimethylsilane, 82.1 grams (0.20 mole) 3,3',5,5'-tetra-tert-butyl-biphenyl-2,2'-diol and 40.5 grams (0.40 mole) of triethylamine. Recrystallization from 2-butanone gives 43.7 grams (47%) of a white powder, mp 170°-176° C.

reactant | dichlorodimethylsilane | 0.20 mole, 25.8 grams | Cl[Si](C)(C)Cl | C2H6Cl2Si
reactant | 3,3',5,5'-tetra-tert-butyl-biphenyl-2,2'-diol | 0.20 mole, 82.1 grams | C(C)(C)(C)C1=C(C(=CC(=C1)C(C)(C)C)C=1C(=C(C=C(C1)C(C)(C)C)C(C)(C)C)O)O | C28H42O2
reactant | triethylamine | 0.40 mole, 40.5 grams | C(C)N(CC)CC | C6H15N
product | 2,4,8,10-Tetra-t-butyl-6,6-dimethyl-dibenzo[d,f][1,3,2]dioxasilepin | 43.7 grams, 47% | C(C)(C)(C)C1=CC2=C(O[Si](OC3=C2C=C(C=C3C(C)(C)C)C(C)(C)C)(C)C)C(=C1)C(C)(C)C | C30H46O2Si
